US04460777
To a suspension of 1.39 g of a 50% sodium hydride suspension in mineral oil dissolved in 30 ml of dimethylformamide was added under nitrogen at 0°-5° dropwise while stirring a solution of 6.59 g of 5-chloro-3-methyl-2-(3-pyridyl)indole (prepared as described in U.S. Pat. No. 3,468,894) in 60 ml of dimethylformamide. After addition was complete the suspension was stirred at 0° for 1/2 hour. While maintaining the temperature at 0° a solution of 6.06 g of methyl 6-bromohexanoate in 10 ml of dimethylformamide was added dropwise. The reaction mixture was allowed to reach room temperature and was stirred at room temperature for 5 hours, and poured into 400 ml of ice water. The resulting mixture was extracted with ethyl acetate (3×300 ml). The ethyl acetate extract was washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness to give 1-(5-methoxycarbonylpentyl)-5-chloro-3-methyl-2-(3-pyridyl)indole as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-3-methyl-2-(3-pyridyl)indole | 6.59 g | ClC=1C=C2C(=C(NC2=CC1)C=1C=NC=CC1)C | C14H11ClN2
reactant | methyl 6-bromohexanoate | 6.06 g | BrCCCCCC(=O)OC | C7H13BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(5-methoxycarbonylpentyl)-5-chloro-3-methyl-2-(3-pyridyl)indole | COC(=O)CCCCCN1C(=C(C2=CC(=CC=C12)Cl)C)C=1C=NC=CC1 | C21H23ClN2O2
